US07641914B2
1) Preparation of 2,2,2-trifluoro-N-(2-octadecyloxy-[1,3]dioxolan-4-ylmethyl)acetamide
3 g of 2,2,2-trifluoro-N-(2-methoxy-[1,3]dioxolan-4-ylmethyl)acetamide (Ortho 1, 13.09 mmol) were mixed with 3.54 g of octadecanol (13.09 mmol). The mixture was melted at 80° C. and left for 2 hours after the addition of 32 mg of pyridinium para-toluenesulfonate (0.13 mmol). The crude reaction product was then dissolved in cyclohexane, washed with a saturated sodium hydrogen carbonate solution and then with a saturated sodium chloride solution, dried over magnesium. sulfate and then concentrated to dryness. This crude product was used as it was for the next step.

reactant | 2,2,2-trifluoro-N-(2-methoxy-[1,3]dioxolan-4-ylmethyl)acetamide | 13.09 mmol, 3 g | FC(C(=O)NCC1OC(OC1)OC)(F)F | C7H10F3NO4
reactant | octadecanol | 13.09 mmol, 3.54 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | pyridinium para-toluenesulfonate | 0.13 mmol, 32 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2,2,2-trifluoro-N-(2-octadecyloxy-[1,3]dioxolan-4-ylmethyl)acetamide | FC(C(=O)NCC1OC(OC1)OCCCCCCCCCCCCCCCCCC)(F)F | C24H44F3NO4
